US04888340
Butyllithium (190 ml; 1.6N) in hexane was added, dropwise, to diisopropylamine (30.4 g; 0.3 mol) in tetrahydrofuran (400 ml) kept under nitrogen at 0° C. The mixture was stirred for 30 minutes at 0° C. and then cooled to -70° C. At this temperature benzyl 4-(2,2,2-trifluoroethoxy)phenyl ketone, dissolved in tetrahydrofuran (70 ml) was slowly added, dropwise, to the reaction mixture. The solution became deep red. The mixture was then stirred at -70° C. for an hour and acetic acid (20 ml) was added, dropwise, without allowing the temperature of the reaction mixture to rise above -65° C. The mixture was then warmed to room temperature and added to ice-water (2000 ml). It was extracted with diethyl ether (3×500 ml) and the purified organic phase washed with sodium hydrogen carbonate, dried over magnesium sulphate and concentrated in a rotary evaporator. The residue was recrystallised from ethanol to give pure benzyl 4-(2,2-difluorovinyloxy)phenyl ketone.

reactant | Butyllithium | 1.6N, 190 ml | C(CCC)[Li]
reactant | diisopropylamine | 0.3 mol, 30.4 g | C(C)(C)NC(C)C | C6H15N
reactant | benzyl 4-(2,2,2-trifluoroethoxy)phenyl ketone | FC(COC1=CC=C(C=C1)C(=O)CC1=CC=CC=C1)(F)F | C16H13F3O2
reactant | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 400 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 70 ml | O1CCCC1 | C4H8O
product | benzyl 4-(2,2-difluorovinyloxy)phenyl ketone | FC(=COC1=CC=C(C=C1)C(=O)CC1=CC=CC=C1)F | C16H12F2O2
